US06255305B1
A mixture of 4-(3,6-dichloropyridazin-4-yl)morpholine (5 g, 21.3 mmol) and hydrazine hydrate (7.0 ml, 141 mmol) in 1,4-dioxan (100 ml) was stirred and heated at reflux for 20 hours. Upon cooling the 1,4-dioxan was removed in vacuo. The residue was then partitioned between dichloromethane and saturated aqueous sodium hydrogen carbonate. The aqueous layer was further extracted with dichloromethane (x2). The combined organic extracts were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography on silica gel, eluting with dichloromethane/methanol/aqueous ammonia (91:8:1) to give 6-chloro-5-(morpholin-4-yl)-pyridazine-3-ylhydrazine (3.6 g, 74%): 1H NMR (250 MHz, d6-DMSO) δ3.37-3.17 (4 H, m), 3.72-3.77 (4 H, m), 4.31 (2 H, br s), 6.58 (1 H, s), 7.97 (1 H, br s); MS (ES+) m/e 230, 232 [MH+].

reactant | 4-(3,6-dichloropyridazin-4-yl)morpholine | 21.3 mmol, 5 g | ClC=1N=NC(=CC1N1CCOCC1)Cl | C8H9Cl2N3O
reactant | hydrazine hydrate | 141 mmol, 7.0 ml | O.NN
solvent | 1,4-dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 6-chloro-5-(morpholin-4-yl)-pyridazine-3-ylhydrazine | 3.6 g, 74% | ClC1=C(C=C(N=N1)NN)N1CCOCC1 | C8H12ClN5O
